US06342765B1
A mixture of methyl 2-(4-fluorophenethyl)-5-hydroxybenzoate (1.83 g, 6.7 mmol), 2-(1-methylimidazol-5-yl)-1-(thiazol-2-yl)ethanol (1.40 g, 6.68 mmol) and triphenylphosphine (2.10 g, 8.0 mmol) in tetrahydrofuran (25 ml) was stirred at ambient temperature under a nitrogen atmosphere. DEAD (1.39 g, 1.25 ml 8.0 mmol) was added dropwise to the solution. (The reaction was maintained at ambient temperature ±2° C.). The orange solution was then stirred at ambient temperature under a nitrogen atmosphere for 16 hours. The tetrahydrofiran solution was evaporated to dryness to give an oil. Purification by flash column chromatography eluting with ethyl acetate, ethyl acetate/methanol (9:1 and 4:1) gave methyl 2-(4-fluorophenethyl)-5-[2-(1-methylimidazol-5-yl)-1-(thiazol-2-yl)ethoxy]benzoate (2.07 g, 67%) as a clear oil.

reactant | methyl 2-(4-fluorophenethyl)-5-hydroxybenzoate | 6.7 mmol, 1.83 g | FC1=CC=C(CCC2=C(C(=O)OC)C=C(C=C2)O)C=C1 | C16H15FO3
reactant | 2-(1-methylimidazol-5-yl)-1-(thiazol-2-yl)ethanol | 6.68 mmol, 1.40 g | CN1C=NC=C1CC(O)C=1SC=CN1 | C9H11N3OS
reactant | triphenylphosphine | 8.0 mmol, 2.10 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DEAD | 8.0 mmol, 1.25 ml, 1.39 g | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | methyl 2-(4-fluorophenethyl)-5-[2-(1-methylimidazol-5-yl)-1-(thiazol-2-yl)ethoxy]benzoate | 2.07 g, 67% | FC1=CC=C(CCC2=C(C(=O)OC)C=C(C=C2)OC(CC2=CN=CN2C)C=2SC=CN2)C=C1 | C25H24FN3O3S
